### PR TITLE
[Merged by Bors] - feat(MeasureTheory/Integral/RieszMarkovKakutani) prove that the Riesz content is regular and define the Riesz measure

### PR DESCRIPTION
**Pull request by yoh-tanimoto**
Prove regularity of `RieszContent`, define the Riesz measure `μ Λ` and prove basic properties.

Motivation: these definitions and lemmas will be used to prove the Riesz-Markov-Kakutani theorem, characterizing `μ Λ`.

In this PR, it is assumed to be NNReal-linear. In this way, the proof of the RMK theorem will be twice as long as a proof for `Real`-linear `Λ` because one cannot define `-f`. #12290 proves the RMK theorem for real linear `Λ`, using the Riesz measure defined in this PR through `toNNRealLinear`.

---
- [x] depends on: #21206 for `partialOrder`

Most probably the naming `Λ_mono` is not good, but I don't know which is the right one.

### CODE REVIEW

**Comment by YaelDillies** [comment]
Great to see this moving forward! Could you please address the comments I made on #12290 ? Thanks!

**Comment by yoh-tanimoto** [comment]
Thanks for your reviews! sure, I will do it.

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean [hunk 1]
```diff
@@ -245,9 +256,145 @@ lemma rieszContentAux_union {K₁ K₂ : TopologicalSpace.Compacts X}
...
+
+section RieszMeasure
+
+variable [T2Space X] [LocallyCompactSpace X] [MeasurableSpace X] [BorelSpace X]
+
+/-- `rieszContent` is promoted to a measure. -/
+def rieszMeasure := (rieszContent Λ).measure
+
+lemma leRieszMeasure_Compacts {f : C_c(X, ℝ≥0)} (hf : ∀ (x : X), f x ≤ 1) {K : Compacts X}
+    (h : tsupport f ⊆ K) : ENNReal.ofNNReal (Λ f) ≤ (rieszMeasure Λ) K := by
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean:376]:
```suggestion
    (h : tsupport f ⊆ K) : .ofNNReal (Λ f) ≤ rieszMeasure Λ K := by
```

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean [hunk 2]
```diff
@@ -36,6 +37,14 @@ variable (Λ : C_c(X, ℝ≥0) →ₗ[ℝ≥0] ℝ≥0)
 
 /-! ### Construction of the content: -/
 
+section Λ_mono
+
+lemma Λ_mono (f₁ f₂ : C_c(X, ℝ≥0)) (h : f₁.1 ≤ f₂.1) : Λ f₁ ≤ Λ f₂ := by
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean:42]: What about
```suggestion
lemma CompactlySupportedContinuousMap.monotone_of_nnreal : Monotone Λ := by
```

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean [hunk 3]
```diff
@@ -245,9 +256,145 @@ lemma rieszContentAux_union {K₁ K₂ : TopologicalSpace.Compacts X}
...
+variable [T2Space X] [LocallyCompactSpace X]
+
 /-- The content induced by the linear functional `Λ`. -/
 noncomputable def rieszContent (Λ : C_c(X, ℝ≥0) →ₗ[ℝ≥0] ℝ≥0) : Content X where
   toFun := rieszContentAux Λ
   mono' := fun _ _ ↦ rieszContentAux_mono Λ
   sup_disjoint' := fun _ _ disj _ _ ↦ rieszContentAux_union Λ disj
   sup_le' := rieszContentAux_sup_le Λ
+
+lemma rieszContent_neq_top {K : Compacts X} : rieszContent Λ K ≠ ⊤ := by
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean:272]:
```suggestion
lemma rieszContent_ne_top {K : Compacts X} : rieszContent Λ K ≠ ⊤ := by
```

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean [hunk 4]
```diff
@@ -245,9 +256,145 @@ lemma rieszContentAux_union {K₁ K₂ : TopologicalSpace.Compacts X}
...
+  simp only [ne_eq, ENNReal.coe_ne_top, not_false_eq_true]
+
+lemma contentRegular_rieszContent : (rieszContent Λ).ContentRegular := by
+  intro K
+  simp only [rieszContent]
+  apply le_antisymm
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean:278]:
```suggestion
  simp only [rieszContent, le_antisymm_iff, le_iInf_iff, ENNReal.coe_le_coe]
  constructor
```
will let you golf things below

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean [hunk 5]
```diff
@@ -245,9 +256,145 @@ lemma rieszContentAux_union {K₁ K₂ : TopologicalSpace.Compacts X}
...
+    set εnn : ℝ≥0 := ⟨ε, le_of_lt hε⟩
+    have εnneq : ε.toNNReal = εnn := Real.toNNReal_of_nonneg (le_of_lt hε)
+    rw [← NNReal.coe_mk ε (le_of_lt hε), ← NNReal.coe_add, NNReal.coe_le_coe]
+    obtain ⟨f, hfleoneonK, hfle⟩ := exists_lt_rieszContentAux_add_pos Λ K (Real.toNNReal_pos.mpr hε)
+    rw [rieszContentAux, εnneq] at hfle
+    apply le_of_lt (lt_of_le_of_lt _ hfle)
+    rw [← NNReal.coe_le_coe]
+    apply (le_iff_forall_one_lt_le_mul₀ _).mpr
+    · intro α hα
+      have : (Λ f) * α = Λ (α.toNNReal • f) := by
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean:304]:
```suggestion
      have : Λ f * α = Λ (α.toNNReal • f) := by
```

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean [hunk 6]
```diff
@@ -245,9 +256,145 @@ lemma rieszContentAux_union {K₁ K₂ : TopologicalSpace.Compacts X}
...
+  apply le_of_lt (lt_of_le_of_lt _ hg.2)
+  apply Λ_mono Λ
+  intro x
+  simp only [ContinuousMap.toFun_eq_coe, CompactlySupportedContinuousMap.coe_toContinuousMap]
+  by_cases hx : x ∈ tsupport f
+  · exact le_trans (hf x) (hg.1 x (Set.mem_of_subset_of_mem h hx))
+  · rw [image_eq_zero_of_nmem_tsupport hx]
+    exact zero_le (g x)
+
+lemma leRieszMeasure_Opens {f : C_c(X, ℝ≥0)} (hf : ∀ (x : X), f x ≤ 1) {V : Opens X}
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean:392]: Why is this about `V : Opens X` rather than `V : Set X` + `IsOpen V`?

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean [hunk 7]
```diff
@@ -245,9 +256,145 @@ lemma rieszContentAux_union {K₁ K₂ : TopologicalSpace.Compacts X}
...
+    apply le_of_lt (lt_of_le_of_lt _ hfle)
+    rw [← NNReal.coe_le_coe]
+    apply (le_iff_forall_one_lt_le_mul₀ _).mpr
+    · intro α hα
+      have : (Λ f) * α = Λ (α.toNNReal • f) := by
+        simp only [map_smul, smul_eq_mul, NNReal.coe_mul, Real.coe_toNNReal',
+          max_eq_left <| le_of_lt (lt_of_le_of_lt zero_le_one hα)]
+        exact mul_comm _ _
+      rw [this]
+      set K' := f ⁻¹' (Ici α⁻¹.toNNReal) with hK'
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean:309]:
```suggestion
      set K' := f ⁻¹' Ici α⁻¹.toNNReal with hK'
```

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean [hunk 8]
```diff
@@ -245,9 +256,145 @@ lemma rieszContentAux_union {K₁ K₂ : TopologicalSpace.Compacts X}
...
+end RieszContentRegular
+
+section RieszMeasure
+
+variable [T2Space X] [LocallyCompactSpace X] [MeasurableSpace X] [BorelSpace X]
+
+/-- `rieszContent` is promoted to a measure. -/
+def rieszMeasure := (rieszContent Λ).measure
+
+lemma leRieszMeasure_Compacts {f : C_c(X, ℝ≥0)} (hf : ∀ (x : X), f x ≤ 1) {K : Compacts X}
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean:375]: Same thing here for `K`

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean (hunk 6 above)
Comment (yoh-tanimoto) [reply Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean:392]: I did so because in #12290 I defined `V` which takes value in `Opens`. Should I change?

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean (hunk 2 above)
Comment (yoh-tanimoto) [reply Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean]: `LE` is not defined for `C_c(X, NNReal)`. for the moment I revert this.

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean:392]: Yeah, more syntactically general lemmas are better, unless you think this lemma will only ever be used for `V : Opens X`, but I don't really see why that would be the case myself

Comment (yoh-tanimoto) [reply Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean]: I see. done and changed the names of the lemmas

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean [hunk 9]
```diff
@@ -36,6 +37,15 @@ variable (Λ : C_c(X, ℝ≥0) →ₗ[ℝ≥0] ℝ≥0)
 
 /-! ### Construction of the content: -/
 
+section Monotone
+
+lemma CompactlySupportedContinuousMap.monotone_of_nnreal (f₁ f₂ : C_c(X, ℝ≥0)) (h : f₁.1 ≤ f₂.1) :
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean:42]:
```suggestion
lemma CompactlySupportedContinuousMap.monotone_of_nnreal {f₁ f₂ : C_c(X, ℝ≥0)} (h : f₁.1 ≤ f₂.1) :
```

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean [hunk 10]
```diff
@@ -36,6 +37,15 @@ variable (Λ : C_c(X, ℝ≥0) →ₗ[ℝ≥0] ℝ≥0)
...
+    Λ f₁ ≤ Λ f₂ := by
+  obtain ⟨g, hg⟩ := exist_add_eq f₁ f₂ h
+  simp only [← hg, map_add, le_add_iff_nonneg_right, zero_le]
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean:45]: Any reason you're squeezing this simp? It's already terminal

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean [hunk 11]
```diff
@@ -245,9 +257,142 @@ lemma rieszContentAux_union {K₁ K₂ : TopologicalSpace.Compacts X}
...
+    · exact zero_le (Λ f)
+
+end RieszContentRegular
+
+section RieszMeasure
+
+variable [T2Space X] [LocallyCompactSpace X] [MeasurableSpace X] [BorelSpace X]
+
+/-- `rieszContent` is promoted to a measure. -/
+def rieszMeasure := (rieszContent Λ).measure
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean:372]: Can you make the docstring not rely on context that the reader can only access by scrolling through the file?

Currently if I hover over `rieszMeasure` and see
```
`rieszContent` is promoted to a measure.
```
I still don't know what `rieszMeasure` is

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean [hunk 12]
```diff
@@ -245,9 +257,142 @@ lemma rieszContentAux_union {K₁ K₂ : TopologicalSpace.Compacts X}
...
+
+lemma leRieszMeasure_of_isCompact_tsupport_subset {f : C_c(X, ℝ≥0)} (hf : ∀ (x : X), f x ≤ 1)
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean:374]:
```suggestion
lemma le_rieszMeasure_of_isCompact_tsupport_subset {f : C_c(X, ℝ≥0)} (hf : ∀ x, f x ≤ 1)
```

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean [hunk 13]
```diff
@@ -245,9 +257,142 @@ lemma rieszContentAux_union {K₁ K₂ : TopologicalSpace.Compacts X}
...
+  apply le_of_lt (lt_of_le_of_lt _ hg.2)
+  apply monotone_of_nnreal Λ
+  intro x
+  simp only [ContinuousMap.toFun_eq_coe, CompactlySupportedContinuousMap.coe_toContinuousMap]
+  by_cases hx : x ∈ tsupport f
+  · exact le_trans (hf x) (hg.1 x (Set.mem_of_subset_of_mem h hx))
+  · rw [image_eq_zero_of_nmem_tsupport hx]
+    exact zero_le (g x)
+
+lemma leRieszMeasure_of_tsupport_subset {f : C_c(X, ℝ≥0)} (hf : ∀ (x : X), f x ≤ 1) {V : Set X}
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean:392]:
```suggestion
lemma le_rieszMeasure_of_tsupport_subset {f : C_c(X, ℝ≥0)} (hf : ∀ x, f x ≤ 1) {V : Set X}
```

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 14]
```diff
@@ -541,6 +542,27 @@ noncomputable def nnrealPart (f : C_c(α, ℝ)) : C_c(α, ℝ≥0) where
 lemma nnrealPart_apply (f : C_c(α, ℝ)) (x : α) :
     f.nnrealPart x = Real.toNNReal (f x) := rfl
 
+lemma exist_add_eq (f₁ f₂ : C_c(α, ℝ≥0)) (h : f₁.1 ≤ f₂.1)  : ∃ (g : C_c(α, ℝ≥0)), f₁ + g = f₂ := by
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:545]:
```suggestion
lemma exist_add_eq {f₁ f₂ : C_c(α, ℝ≥0)} (h : f₁.1 ≤ f₂.1)  : ∃ (g : C_c(α, ℝ≥0)), f₁ + g = f₂ := by
```

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean]: Can you leave a comment about why you can't spell that lemma with `Monotone`?

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean (hunk 10 above)
Comment (yoh-tanimoto) [reply Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean:45]: no particular reason (here I have to first `rw`). Why should one not squeeze?

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean (hunk 2 above)
Comment (yoh-tanimoto) [reply Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean]: done

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean (hunk 11 above)
Comment (yoh-tanimoto) [reply Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean]: I explained what `rieszContent` is, is this what you mean?

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean (hunk 10 above)
Comment (YaelDillies) [reply Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean]: [This is explained in the style guide](https://leanprover-community.github.io/contribute/style#squeezing-simp-calls)

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean [hunk 15]
```diff
@@ -245,9 +260,143 @@ lemma rieszContentAux_union {K₁ K₂ : TopologicalSpace.Compacts X}
...
+          apply (inv_le_iff_one_le_mul₀ (lt_trans zero_lt_one hα)).mp
+          rw [← Set.mem_Ici]
+          simp only [mem_Ici, ge_iff_le]
+          exact Real.toNNReal_le_iff_le_coe.mp hx
+        · simp only [map_smul, smul_eq_mul, mul_eq_mul_right_iff]
+          left
+          rw [Real.toNNReal_eq_toNNReal_iff (le_of_lt (lt_of_le_of_lt zero_le_one hα))
+            (le_max_right α 0), left_eq_sup]
+          exact le_of_lt (lt_of_le_of_lt zero_le_one hα)
+    · exact zero_le (Λ f)
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean:366]: Here is a golf
```suggestion
  refine ⟨fun K' hK' ↦ rieszContentAux_mono Λ (hK'.trans interior_subset), ?_⟩
  rw [iInf_le_iff]
  intro b hb
  rw [rieszContentAux, ENNReal.le_coe_iff]
  have : b < ⊤ := by
    obtain ⟨F, hF⟩ := exists_compact_superset K.2
    exact (le_iInf_iff.mp (hb ⟨F, hF.1⟩) hF.2).trans_lt ENNReal.coe_lt_top
  refine ⟨b.toNNReal, (ENNReal.coe_toNNReal this.ne).symm, NNReal.coe_le_coe.mp ?_⟩
  apply le_iff_forall_pos_le_add.mpr
  intro ε hε
  lift ε to ℝ≥0 using hε.le
  obtain ⟨f, hfleoneonK, hfle⟩ := exists_lt_rieszContentAux_add_pos Λ K (Real.toNNReal_pos.mpr hε)
  rw [rieszContentAux, Real.toNNReal_of_nonneg hε.le, ← NNReal.coe_lt_coe] at hfle
  refine ((le_iff_forall_one_lt_le_mul₀ (zero_le (Λ f))).mpr fun α hα ↦ ?_).trans hfle.le
  rw [mul_comm, ← smul_eq_mul, ← map_smul]
  set K' := f ⁻¹' Ici α⁻¹
  have hKK' : ↑K ⊆ interior K' :=
    subset_interior_iff.2 ⟨f ⁻¹' Ioi α⁻¹, isOpen_Ioi.preimage f.1.2,
      fun x hx ↦ (inv_lt_one_of_one_lt₀ hα).trans_le (hfleoneonK x hx),
      preimage_mono Ioi_subset_Ici_self⟩
  have hK'cp : IsCompact K' := .of_isClosed_subset f.2 (isClosed_Ici.preimage f.1.2) fun x hx ↦
    subset_closure ((inv_pos_of_pos <| zero_lt_one.trans hα).trans_le hx).ne'
  set hb' := hb ⟨K', hK'cp⟩
  simp only [Compacts.coe_mk, le_iInf_iff] at hb'
  exact (ENNReal.toNNReal_mono (by simp) <| hb' hKK').trans <| csInf_le'
    ⟨α • f, fun x ↦ (inv_le_iff_one_le_mul₀' (zero_lt_one.trans hα)).mp, by simp⟩
```

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean [hunk 16]
```diff
@@ -245,9 +260,143 @@ lemma rieszContentAux_union {K₁ K₂ : TopologicalSpace.Compacts X}
...
+lemma le_rieszMeasure_of_isCompact_tsupport_subset {f : C_c(X, ℝ≥0)} (hf : ∀ x, f x ≤ 1)
+    {K : Set X} (hK : IsCompact K) (h : tsupport f ⊆ K) : .ofNNReal (Λ f) ≤ rieszMeasure Λ K := by
+  rw [← TopologicalSpace.Compacts.coe_mk K hK]
+  simp only [rieszMeasure, Content.measure_eq_content_of_regular (rieszContent Λ)
+    (contentRegular_rieszContent Λ)]
+  simp only [rieszContent, ENNReal.ofReal_coe_nnreal, ENNReal.coe_le_coe]
+  apply le_iff_forall_pos_le_add.mpr
+  intro ε hε
+  obtain ⟨g, hg⟩ := exists_lt_rieszContentAux_add_pos Λ ⟨K, hK⟩ hε
+  apply le_of_lt (lt_of_le_of_lt _ hg.2)
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean:387]:
```suggestion
  apply le_trans _ hg.2.le
```

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 17]
```diff
@@ -541,6 +542,27 @@ noncomputable def nnrealPart (f : C_c(α, ℝ)) : C_c(α, ℝ≥0) where
 lemma nnrealPart_apply (f : C_c(α, ℝ)) (x : α) :
     f.nnrealPart x = Real.toNNReal (f x) := rfl
 
+lemma exist_add_eq {f₁ f₂ : C_c(α, ℝ≥0)} (h : f₁.1 ≤ f₂.1)  : ∃ (g : C_c(α, ℝ≥0)), f₁ + g = f₂ := by
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:545]:
```suggestion
lemma exist_add_eq {f₁ f₂ : C_c(α, ℝ≥0)} (h : f₁.1 ≤ f₂.1) : ∃ (g : C_c(α, ℝ≥0)), f₁ + g = f₂ := by
```

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 18]
```diff
@@ -541,6 +542,27 @@ noncomputable def nnrealPart (f : C_c(α, ℝ)) : C_c(α, ℝ≥0) where
...
+      ContinuousMap.sub_apply, CompactlySupportedContinuousMap.coe_toContinuousMap]
+    by_contra!
+    rw [this.2.1, this.2.2] at this
+    simp only [tsub_self, ne_eq, not_true_eq_false, and_self, and_true] at this
+  use ⟨g_cf, g_cp⟩
+  ext x
+  simp only [CompactlySupportedContinuousMap.coe_add, CompactlySupportedContinuousMap.coe_mk,
+    Pi.add_apply, NNReal.coe_inj, hg_cf, ContinuousMap.sub_apply,
+    CompactlySupportedContinuousMap.coe_toContinuousMap]
+  exact add_tsub_cancel_of_le (h x)
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:564]: Here is a golf
```suggestion
  refine ⟨⟨f₂.1 - f₁.1, ?_⟩, ?_⟩
  · apply (f₁.hasCompactSupport'.union f₂.hasCompactSupport').of_isClosed_subset isClosed_closure
    rw [tsupport, tsupport, ← closure_union]
    apply closure_mono
    intro x hx
    contrapose! hx
    simp only [ContinuousMap.toFun_eq_coe, coe_toContinuousMap, Set.mem_union, Function.mem_support,
      ne_eq, not_or, Decidable.not_not, ContinuousMap.coe_sub, Pi.sub_apply] at hx ⊢
    simp [hx.1, hx.2]
  · ext x
    simpa [← NNReal.coe_add] using add_tsub_cancel_of_le (h x)
```

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean (hunk 11 above)
Comment (YaelDillies) [reply Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean]: From
```
/-- `rieszContent` gives a `Content` from `Λ : C_c(X, ℝ≥0) →ₗ[ℝ≥0] ℝ≥0`. Here `rieszContent Λ` is
promoted to a measure. -/
```
I still have no idea what `rieszMeasure` is or does. Eg what values does it take? what important property does it have?

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean (hunk 10 above)
Comment (yoh-tanimoto) [reply Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean]: ah, I thought I had read through the style guide but I had missed it, sorry!

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean (hunk 11 above)
Comment (yoh-tanimoto) [reply Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean]: I tried adding a description (which is [MeasureTheory.Content.measure_apply](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Measure/Content.html#MeasureTheory.Content.measure_apply)), is this what you mean?

**Comment by yoh-tanimoto** [comment]
thanks for massive golfing!

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean (hunk 2 above)
Comment (yoh-tanimoto) [reply Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean]: actually, it was not difficult to use `Monotone`. done

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 19]
```diff
@@ -399,6 +400,26 @@ instance : StarRing C_c(α, β) :=
...
+
+/-! ### The partial order in `C_c`
+
+When `β` is equipped with a partial order, `C_c(α, β)` is given the pointwise partial order.
+-/
+
+variable {β : Type*} [TopologicalSpace β] [Zero β]
+
+instance partialOrder [PartialOrder β] : PartialOrder C_c(α, β) :=
+  PartialOrder.lift (fun f => f.toFun) (fun f g _ => by aesop)
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:413]:
```suggestion
  PartialOrder.lift (fun f => \u=f) (fun f g _ => by aesop)
```
Also consider making this a new PR, for discoverability

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean (hunk 10 above)
Comment (YaelDillies) [reply Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean]: It was added recently!

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean (hunk 11 above)
Comment (YaelDillies) [reply Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean]: I would like to be able to understand the definition without having to read any other docstring. Currently, you still require me to read up what `Content.outerMeasure` does

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean (hunk 19 above)
Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousMap/CompactlySupported.lean:413]: I opened #21206. sorry, I don't understand this suggested commit (it fails).

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean (hunk 11 above)
Comment (yoh-tanimoto) [reply Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean]: I don't know how to characterize `rieszMeasure` without using some other definitions. I wrote the RMK theorem for characterization, is this fine?

**Comment by yoh-tanimoto** [comment]
Sorry for my late replies and commits. I put RFC because I can only first prove the `Real`-linear version of the RMK theorem #12290 although here `Λ` is `NNReal`-linear. One has to go back and forth between `Real` and `NNReal` to prove finally the `NNReal`-version of the RMK theorem, and I wanted to ask whether it's ok.

I made small PR's as requested and updated the docstring.

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean (hunk 19 above)
Comment (YaelDillies) [reply Mathlib/Topology/ContinuousMap/CompactlySupported.lean:413]: Sorry, I was on my phone so couldn't input the unicode. You are supposed to type `\u=f`

Comment (yoh-tanimoto) [reply Mathlib/Topology/ContinuousMap/CompactlySupported.lean:413]: I see. As this part has been split #21206 and you made changes there, I wait for it to be merged.

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean [hunk 20]
```diff
@@ -245,9 +257,85 @@ lemma rieszContentAux_union {K₁ K₂ : TopologicalSpace.Compacts X}
...
+
+end RieszContentRegular
+
+section RieszMeasure
+
+variable [T2Space X] [LocallyCompactSpace X] [MeasurableSpace X] [BorelSpace X]
+
+/-- `rieszContent` gives a `Content` from `Λ : C_c(X, ℝ≥0) →ₗ[ℝ≥0] ℝ≥0`. Here `rieszContent Λ` is
+promoted to a measure. It will be later shown that
+`∫ (x : X), f x ∂(rieszMeasure Λ hΛ) = Λ f` for all `f : C_c(X, ℝ≥0)`. -/
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean:314]: What about
```suggestion
/-- Given a `ℝ≥0`-linear functional `Λ` on `C_c(X, ℝ≥0)`. the Riesz measure is a measure which
respects `∫ x, f x ∂(rieszMeasure Λ) = Λ f` for all `f : C_c(X, ℝ≥0)`. -/
```

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean [hunk 21]
```diff
@@ -245,9 +257,85 @@ lemma rieszContentAux_union {K₁ K₂ : TopologicalSpace.Compacts X}
...
+  apply monotone_of_nnreal Λ
+  intro x
+  simp only [ContinuousMap.toFun_eq_coe, CompactlySupportedContinuousMap.coe_toContinuousMap]
+  by_cases hx : x ∈ tsupport f
+  · exact le_trans (hf x) (hg.1 x (Set.mem_of_subset_of_mem h hx))
+  · rw [image_eq_zero_of_nmem_tsupport hx]
+    exact zero_le (g x)
+
+lemma le_rieszMeasure_of_tsupport_subset {f : C_c(X, ℝ≥0)} (hf : ∀ x, f x ≤ 1) {V : Set X}
+    (h : tsupport f ⊆ V) : ENNReal.ofNNReal (Λ f) ≤ rieszMeasure Λ V := by
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean:336]:
```suggestion
    (h : tsupport f ⊆ V) : .ofNNReal (Λ f) ≤ rieszMeasure Λ V := by
```

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean [hunk 22]
```diff
@@ -245,9 +257,85 @@ lemma rieszContentAux_union {K₁ K₂ : TopologicalSpace.Compacts X}
...
+  apply le_trans _ (MeasureTheory.measure_mono h)
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean:337]:
```suggestion
  apply le_trans _ (measure_mono h)
```

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 23]
```diff
@@ -641,6 +641,19 @@ noncomputable def nnrealPart (f : C_c(α, ℝ)) : C_c(α, ℝ≥0) where
 lemma nnrealPart_apply (f : C_c(α, ℝ)) (x : α) :
     f.nnrealPart x = Real.toNNReal (f x) := rfl
 
+lemma exist_add_eq {f₁ f₂ : C_c(α, ℝ≥0)} (h : f₁ ≤ f₂) : ∃ (g : C_c(α, ℝ≥0)), f₁ + g = f₂ := by
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:644]:
```suggestion
protected lemma exists_add_of_le {f₁ f₂ : C_c(α, ℝ≥0)} (h : f₁ ≤ f₂) : ∃ (g : C_c(α, ℝ≥0)), f₁ + g = f₂ := by
```
to match `exists_add_of_le`

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean (hunk 20 above)
Comment (yoh-tanimoto) [reply Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean:314]: Well, I'm not sure... this will be proved in the later theorem, and this is not the definition of `rieszMeasure`.

Comment (YaelDillies) [reply Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean:314]: Yeah but the definition is just below. This doesn't necessarily need to be repeated in the docstring

Comment (YaelDillies) [reply Mathlib/MeasureTheory/Integral/RieszMarkovKakutani.lean:314]: My point is that docstrings will mostly be read *after the fact*. People will see them either when hovering over the definition in a later file or in the docs

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate
